US06225318B1
(1H-Indol-5-yl)-(6-iodo-7-methoxy-quinazolin-4-yl)-amine
In a round bottom flask 6-Iodo-7-methoxy-3H-quinazolin-4-one (500 mg, 1.65 mmol), triphenyl phosphine polymer (2.75 gm, 3 mmol/gm) and carbon tetrachloride (2.53 gm, 16.5 mmol) were combined in 3 mL of dichloroethane and heated at reflux for 5 hours. 5-Aminoindole (686 mg, 1.65 mmol) was added to the mixture and heated at 50° C. overnight. Reaction mixture was concentrated in vacuo and the residue was chromatographed on silica gel 20% MeOH/1% ammonium hydroxide (NH4OH)/CHCl3 to provide 186 mg (28%) of product as a pale yellow solid.

reactant | 6-Iodo-7-methoxy-3H-quinazolin-4-one | 1.65 mmol, 500 mg | IC=1C=C2C(NC=NC2=CC1OC)=O | C9H7IN2O2
reactant | triphenyl phosphine | 2.75 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 16.5 mmol, 2.53 gm | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 5-Aminoindole | 1.65 mmol, 686 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | (1H-Indol-5-yl)-(6-iodo-7-methoxy-quinazolin-4-yl)-amine | 186 mg, 28% | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)I)OC | C17H13IN4O
